US05494908
3-[[2-(4-Morpholinyl)ethyl]methylamino]-1,2-benzisoxazol-5-ol
5-Methoxy-N-methyl-N-[2-(4-morpholinyl)ethyl]-1,2-benzisoxazol-3-amine (2.6 g) was dissolved in 48% hydrobromic acid (40 ml) and heated to reflux under nitrogen for 6 hours. The reaction was cooled to room temperature, neutralized with saturated Na2CO3 solution, and extracted with EtOAc. The organic phase was dried over MgSO4 and concentrated in vacuo. Flash chromatography (silica gel) eluting with 1:1:20 acetone/MeOH/DCM provided the pure product (2.1 g), 153°-154° C.

reactant | 5-Methoxy-N-methyl-N-[2-(4-morpholinyl)ethyl]-1,2-benzisoxazol-3-amine | 2.6 g | COC=1C=CC2=C(C(=NO2)N(CCN2CCOCC2)C)C1 | C15H21N3O3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | hydrobromic acid | 40 ml | Br | BrH
product | 3-[[2-(4-Morpholinyl)ethyl]methylamino]-1,2-benzisoxazol-5-ol | 2.1 g | N1(CCOCC1)CCN(C1=NOC2=C1C=C(C=C2)O)C | C14H19N3O3
